US07470680B2
4-fluoro-1-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one hydrochloride.
tert-Butyl 4-(4-fluoro-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)piperidine-1-carboxylate (1.03 g, 3.07 mmol) was dissolved in dichloromethane (30 ml). 4N Hydrogen chloride in 1,4-dioxane (8 ml, 32 mmol) was added to the reaction at room temperature. The reaction stirred at room temperature for 5 hours. The solvent was removed in vacuo. Title compound was obtained as white solid in quantitative yield. 1H NMR (400 MHz, MeOD) δ ppm 7.14 (d, J=8.81 Hz, 1 H) 7.00-7.10 (m, 1 H) 6.80-6.92 (m, 1 H) 4.48-4.63 (m, 1 H) 3.52-3.60 (m, 2 H) 3.16-3.26 (m, 2 H) 2.64-2.82 (m, 2 H) 2.04 (dd, J=12.46, 1.89 Hz, 2 H).

reactant | tert-Butyl 4-(4-fluoro-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)piperidine-1-carboxylate | 3.07 mmol, 1.03 g | FC1=CC=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)OC(C)(C)C | C17H22FN3O3
reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | 1,4-dioxane | 32 mmol, 8 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-fluoro-1-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one hydrochloride | quantitative yield | Cl.FC1=CC=CC=2N(C(NC21)=O)C2CCNCC2 | InChI=1S/C12H14FN3O.ClH/c13-9-2-1-3-10-11(9)15-12(17)16(10)8-4-6-14-7-5-8;/h1-3,8,14H,4-7H2,(H,15,17);1H
